US04634551
A one L beaker was charged with 250 mL of 1N sodium hydroxide solution (0.25 mol) and 32.8 g (0.25 mol) of 6-aminocaproic acid. The resulting solution was cooled in an ice bath and, with stirring, a solution of lauroyl chloride (54.7 g, 0.25 mol) in 100 mL ether was added dropwise while maintaining the pH of the stirred solution between 10 and 12 by addition of 10% sodium hydroxide solution. Addition of the lauroyl chloride required 45 min. During this period the reaction mixture became thick with solid and additional volumes of water and ether were added in order to keep the mixture stirrable. Following completion of the lauroyl chloride addition, the ice bath was removed and the mixture was stirred for 1.5 hr. at room temperature. The mixture was then adjusted to pH 2 with concentrated HCl, and the precipitate which formed was removed by filtration and washed with water. The resulting solid was slurried with hexane (200 ml), filtered, and washed 5 times with 100 ml portions of hexane. This hexane slurry/wash procedure was repeated a second time. The resulting solid was air dried to yield 70.7 g (90%) of N-lauroyl-6-aminocaproic acid, mp 87°-90° C. [lit mp 85°-86° C.--E. Jungerman, J. F. Gerecht, and I. J. Krems, J. Amer. Chem. Soc., 78, 172 (1956).]

reactant | sodium hydroxide | 0.25 mol, 1N, 250 mL | [OH-].[Na+]
reactant | 6-aminocaproic acid | 0.25 mol, 32.8 g | NCCCCCC(=O)O | C6H13NO2
reactant | lauroyl chloride | 0.25 mol, 54.7 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | water | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
product | N-lauroyl-6-aminocaproic acid | 70.7 g, 90% | C(CCCCCCCCCCC)(=O)NCCCCCC(=O)O | C18H35NO3
